US07557112B2
3-aminothiophene-2-carboxamide was added to an acetic acid solution of 4,5-dichlorophthalic anhydride and stirred all night heated to reflux to give 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)thiophene-2-carboxamide. 1M NaOH aq was added to THF-MeOH solution of the obtained 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)thiophene-2-carboxamide and stirred for 2.5 hours at 80° C. to give 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoic acid. Sulfuric acid was added to a MeOH-1,4-dioxane solution of the obtained 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoic acid and stirred for three days at 70° C. to give methyl 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoate.

reactant | 3-aminothiophene-2-carboxamide | NC1=C(SC=C1)C(=O)N | C5H6N2OS
reactant | 4,5-dichlorophthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)thiophene-2-carboxamide | ClC=1C=C2C(N(C(C2=CC1Cl)=O)C1=C(SC=C1)C(=O)N)=O | C13H6Cl2N2O3S
